* C:\Users\ThinkPad User\Documents\eagle\ESP8266_hardware\PowerBoard\Ideal_Diode.asc
Q1 N003 N001 V1 0 BC557B
Q2 GATEM1 N001 LOAD 0 BC557B
R1 N003 0 47k
R2 N001 0 470k
R3 GATEM1 0 47k
M1 V1 GATEM1 LOAD LOAD Si4542DY_P
V1 V1 0 PULSE(0 3 1 0 0 2 3)
R4 LOAD 0 3
V2 V2 0 PULSE(0 3.08 2 0 0 2 3)
M2 V2 GATEM2 LOAD LOAD Si4542DY_P
Q3 GATEM2 N002 LOAD 0 BC557B
Q4 N004 N002 V2 0 BC557B
R5 N004 0 47k
R6 N002 0 470k
R7 GATEM2 0 47k
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 10
.backanno
.end
